US05482986
The same procedures as Example 1 were carried out except that 150 parts of ethyl p-aminobenzoate were replaced by 150 parts of ethyl m-aminobenzoate. The 2H-1-benzopyran-2-on compound thus obtained was 228 parts.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | ethyl m-aminobenzoate | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
product | 2H-1-benzopyran-2-on | O1C(C=CC2=C1C=CC=C2)=O | C9H6O2
